US07183304B2
Into a solution of 4-trifluoromethyl benzaldehyde (400.0 g, 2.3 mol) and 2,3-butanedione monoxime (212 g, 2.055 mol) in 800 mL of glacial acetic acid at 2–5° C., hydrogenchloride gas (250 g) is slowly bubbled for 1.5 hours. The mixture is stirred at the same temperature for 1 hour further. 3.75 L of t-butyl methyl ether are added while maintaining the temperature between 5–25° C. (first 400 mL addition is exothermic). The resulting suspension is stirred for 30 minutes, then cooled to 10° C. and the solids are collected by filtration. The filter cake is washed with 500 mL of t-butylmethyl ether, and dried at 55–60° C. (20 mbar) for 18 hours to afford 550 g (91% yield) of 4,5-dimethyl-2-[4-(trifluoromethyl)phenyl]-oxazole 3-oxide, hydrochloride salt: m.p. 182–184° C. (with decomposition).

reactant | 4-trifluoromethyl benzaldehyde | 2.3 mol, 400.0 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2,3-butanedione monoxime | 2.055 mol, 212 g | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | hydrogenchloride | 250 g | Cl | ClH
reactant | t-butyl methyl ether | 3.75 L | COC(C)(C)C | C5H12O
solvent | acetic acid | 800 mL | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-2-[4-(trifluoromethyl)phenyl]-oxazole 3-oxide, hydrochloride salt | 550 g, 91% yield | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-] | InChI=1S/C12H10F3NO2.ClH/c1-7-8(2)18-11(16(7)17)9-3-5-10(6-4-9)12(13,14)15;/h3-6H,1-2H3;1H
